US07351719B2
136b) (2-chloro-4-pyridin-3-yl-phenoxy)-acetic acid
250 mg (6.250 mmol) NaOH in 10 mL water was added to a solution of 0.400 g (1.371 mmol) ethyl (2-chloro-4-pyridin-3-yl-phenoxy)-acetate in 40 mL abs. EtOH and the mixture was stirred for 1 h at RT. The reaction mixture was acidified with aqueous HCl (1 M) to pH 7.5, the precipitate was filtered off and washed with water.

reactant | NaOH | 6.250 mmol, 250 mg | [OH-].[Na+]
reactant | ethyl (2-chloro-4-pyridin-3-yl-phenoxy)-acetate | 1.371 mmol, 0.400 g | ClC1=C(OCC(=O)OCC)C=CC(=C1)C=1C=NC=CC1 | C15H14ClNO3
reactant | EtOH | CCO | C2H6O
reactant | HCl | 1 M | Cl | ClH
solvent | water | 10 mL | O | H2O
product | (2-chloro-4-pyridin-3-yl-phenoxy)-acetic acid | ClC1=C(OCC(=O)O)C=CC(=C1)C=1C=NC=CC1 | C13H10ClNO3
